US04021451
5-(3-Aminopropyl)-1,2,3a,4,5,6-hexahydro-7,8-dimethoxypyrano[2,3,4-de]isoquinoline dihydrochloride
A solution of aluminum chloride (5.6 g) in anhydrous ether (80 ml) is added dropwise to a stirred suspension of lithium aluminum hydride (1.6 g) in anhydrous ether (80 ml). The mixture is stirred at room temperature for 0.5 hr. and then a solution of the nitrile, 5-cyanoethyl-1,2,3a,4,5,6-hexahydro-7,8-dimethoxypyrano[2,3,4-de]isoquinoline (7 g), described in Example 61, in anhydrous ether (100 ml) is added dropwise during 2 hr. The mixture is heated under reflux for 2 hr. and then cooled (ice bath) and a solution of water (12 ml) in tetrahydrofuran (60 ml) is added. The mixture is heated under reflux for 15 minutes, cooled and water (20 ml) is added, followed by 10% KOH solution until the aqueous phase is rendered basic. The mixture is filtered, washing well with ether. the ether solution is collected and the aqueous phase is saturated with salt and extracted with chloroform. The organic solutions are combined and evaporated to yield the title compound, λmaxEtOH 284 nm (1830). max

reactant | aluminum chloride | 5.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 1.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 5-cyanoethyl-1,2,3a,4,5,6-hexahydro-7,8-dimethoxypyrano[2,3,4-de]isoquinoline | 7 g | C(#N)CCC1CC2C=3C(=CN(C(C3C1)OC)OC)OCC2 | C16H22N2O3
reactant | KOH | [OH-].[K+]
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | water | 20 ml | O | H2O
solvent | water | 12 ml | O | H2O
product | 5-(3-Aminopropyl)-1,2,3a,4,5,6-hexahydro-7,8-dimethoxypyrano[2,3,4-de]isoquinoline dihydrochloride | Cl.Cl.NCCCC1CC2C=3C(=CN(C(C3C1)OC)OC)OCC2 | InChI=1S/C16H26N2O3.2ClH/c1-19-16-13-9-11(4-3-6-17)8-12-5-7-21-14(15(12)13)10-18(16)20-2;;/h10-12,16H,3-9,17H2,1-2H3;2*1H
